US04383945
To a solution of benzyl 4-[(2RS)-1-(tert-butyldimethylsilyl)-4-oxoazetidin-2-yl]but-2-enoate (45 mg) in methanol was added 1 N hydrochloric acid (0.1 ml) at 0°. After stirring at room temperature for 2.5 hours, the reaction mixture was neutrallized to pH 7 with saturated aqueous sodium bicarbonate. The resultant solution was concentrated, taken up into ethyl acetate (15 ml), and washed in turn with water and brine. Drying over magnesium sulfate and removal of the solvent left an oil, which was chromatographed on a silica gel plate (developing solvent: 6% methanol in dichloromethane) to give benzyl 4-[(2RS)-4-oxoazetidin-2-yl]but-2-enoate (30 mg) as a crystalline solid.

reactant | benzyl 4-[(2RS)-1-(tert-butyldimethylsilyl)-4-oxoazetidin-2-yl]but-2-enoate | 45 mg | [Si](C)(C)(C(C)(C)C)N1C(CC1=O)CC=CC(=O)OCC1=CC=CC=C1 | C20H29NO3Si
reactant | hydrochloric acid | 1 N, 0.1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | benzyl 4-[(2RS)-4-oxoazetidin-2-yl]but-2-enoate | 30 mg | O=C1CC(N1)CC=CC(=O)OCC1=CC=CC=C1 | C14H15NO3
